US05082945
Preparation of 4-trifluoromethylthio-3-cyano-5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole
Firstly, 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-pyrazolyl disulphide (2 g) is dissolved in dimethylformamide (120 cc); secondly, sodium hydrogen phosphate 12H2O (3.05 g) is dissolved in distilled water (60 cc). The dimethylformamide solution is then introduced into a 500-cm3Teflon-coated autoclave, followed by the aqueous solution. Sodium dithionite (1.48 g) is introduced in its turn with stirring. The autoclave is then closed and CF3Br is introduced at a pressure of 12-13 bars (autogenous pressure).

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-pyrazolyl disulphide | 2 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)SSC=1C(=NN(C1N)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N | C22H8Cl4F6N8S2
reactant | sodium hydrogen phosphate | P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | Sodium dithionite | 1.48 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | CF3Br | C(F)(F)(F)Br | CBrF3
solvent | dimethylformamide | 120 cc | CN(C=O)C | C3H7NO
solvent | water | 60 cc | O | H2O
product | 4-trifluoromethylthio-3-cyano-5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | FC(SC=1C(=NN(C1N)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)(F)F | C12H4Cl2F6N4S
